US07465815B2
1-(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)acetone
A mixed solution of 2-(4-isopropylbenzyl)-3,5-dimethylphenol obtained in Reference Example 148 (1.0 g, 3.93 mmol), potassium carbonate (1.30 g, 9.44 mmol), chloroacetone (436 mg, 4.72 mmol) and potassium iodide (100 mg) in acetone (15 mL) was heated under reflux for 16 hours. Water was added to the reaction solution, which was extracted with ethyl acetate. The combined organic layer was washed with a saturated brine, dried over anhydrous sodium sulfate, filtered, and then concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:4) to obtain 888 mg (yield 73%) of the title compound. Oily matter.

reactant | 2-(4-isopropylbenzyl)-3,5-dimethylphenol | C(C)(C)C1=CC=C(CC2=C(C=C(C=C2C)C)O)C=C1 | C18H22O
reactant | potassium carbonate | 9.44 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetone | 4.72 mmol, 436 mg | ClCC(C)=O | C3H5ClO
reactant | potassium iodide | 100 mg | [I-].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | Water | O | H2O
product | 1-(2-(4-Isopropylbenzyl)-3,5-dimethylphenoxy)acetone | 888 mg, yield 73% | C(C)(C)C1=CC=C(CC2=C(OCC(=O)C)C=C(C=C2C)C)C=C1 | C21H26O2
